US04264774
5-Chloro-2-thiophenesulfonyl Bromide
In a 1-liter, three-neck flask equipped with a magnetic stirrer, a thermometer, an an addition funnel were placed 300 ml of methylene chloride, 10.63 g (0.05 mol) of 5-chloro-2-thiophenesulfonyl hydrazine, and some crushed ice. The slurry was allowed to cool to 2° C., and 16.0 g (0.10 mol) of bromine was added dropwise with stirring at such a rate that the temperature did not exceed 10° C. After the addition was complete, the methylene chloride layer was separated, dried and the methylene chloride removed in vacuo, leaving a yellow-orange oil. The oil was dissolved in hexane and the resulting solution cooled to give 6.56 g of the title compound as slightly yellow crystals, mp 35°-37°.

reactant | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
reactant | 5-chloro-2-thiophenesulfonyl hydrazine | 0.05 mol, 10.63 g | ClC1=CC=C(S1)S(=O)(=O)NN | C4H5ClN2O2S2
reactant | bromine | 0.10 mol, 16.0 g | BrBr | Br2
solvent | hexane | CCCCCC | C6H14
product | 5-Chloro-2-thiophenesulfonyl Bromide | 6.56 g | ClC1=CC=C(S1)S(=O)(=O)Br | C4H2BrClO2S2
